US05739150
4-[(2-Benzothiazolyl)carbonyl]-1-piperidineacetic acid, methyl ester.
Mix (2-benzothiazolyl)(4-piperidinyl)methanone.CF3CO2H (3.0 g, 8.33 mmol), methyl bromoacetate (1.34 g, 8.74 mmol), sodium bicarbonate (1.75 g, 20.83 mmol), tetrahydrofuran (120 mL) and water (30 mL). Heat at reflux for 4 hours, cool to room temperature and partition between ethyl acetate and water. Separate the organic phase and extract the aqueous phase with ethyl acetate. Combine the organic phases, wash with water and dry (MgSO4). Evaporate the solvent in vacuo to give a yellow oil. Dissolve the oil in ethanol/ethyl ether and treat with ethereal hydrogen chloride gas. Cool overnight, collect the resulting solid by filtration, wash with ethyl ether and dry to give the title compound as a white crystalline solid; mp 177°-178° C.

reactant | (2-benzothiazolyl)(4-piperidinyl)methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C13H14N2OS
reactant | CF3CO2H | 8.33 mmol, 3.0 g | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | methyl bromoacetate | 8.74 mmol, 1.34 g | BrCC(=O)OC | C3H5BrO2
reactant | sodium bicarbonate | 20.83 mmol, 1.75 g | C([O-])(O)=O.[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol ethyl ether | C(C)O.C(C)OCC
solvent | water | 30 mL | O | H2O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 4-[(2-Benzothiazolyl)carbonyl]-1-piperidineacetic acid, methyl ester | S1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)CC(=O)OC | C16H18N2O3S
